US04052455
Reaction of Cyclopropylamine with N-(2,6-dichlorostyrylsulfonyl)chloroacetimidate according to the procedure of EXAMPLE 32(b) affords N-cyclopropyl-N'-(2,6-dichlorostyrylsulfonyl) acetamidine, m.p. 121°-124° C. when crystallized from benzene.

reactant | Cyclopropylamine | C1(CC1)N | C3H7N
reactant | N-(2,6-dichlorostyrylsulfonyl)chloroacetimidate | ClC1=C(C=CS(=O)(=O)N=C(CCl)[O-])C(=CC=C1)Cl
product | N-cyclopropyl-N'-(2,6-dichlorostyrylsulfonyl) acetamidine | C1(CC1)NC(C)=NS(=O)(=O)C=CC1=C(C=CC=C1Cl)Cl | C13H14Cl2N2O2S
